US04727180
To excess chlorosulfonic acid cooled with an ice-acetone bath can be added methyl 4-[2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl]benzenepropanoate with stirring. The solution should be stirred for several hours. Addition of the reaction mixture to ice and isolation of the product will give 2-chlorosulfonyl-4-[2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl]benzenepropanoic acid, methyl ester. Reduction of 2-chlorosulfonyl-4-[2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl]benzenepropanoic acid, methyl ester with zinc in acetic acid followed by isolation of the product will give 2-mercapto-4-[2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl]benzenepropanoic acid, methyl ester.

reactant | 2-chlorosulfonyl-4-[2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl]benzenepropanoic acid, methyl ester | ClS(=O)(=O)C1=C(C=CC(=C1)C(C(F)(F)F)(C(F)(F)F)O)CCC(=O)OC | C13H11ClF6O5S
solvent | acetic acid | C(C)(=O)O | C2H4O2
catalyst | zinc | [Zn] | Zn
product | 2-mercapto-4-[2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl]benzenepropanoic acid, methyl ester | SC1=C(C=CC(=C1)C(C(F)(F)F)(C(F)(F)F)O)CCC(=O)OC | C13H12F6O3S
